US05789595
1.08 g of 1-methyl-7-nitro-3,4-dihydroisoquinoline was dissolved in 10 ml of methanol, and 0.43 g of sodium borohydride was added to the solution at 0° C. The solution was stirred overnight at room temperature, and water was added to the reaction mixture. The mixture was extracted with ethyl acetate, and after washing with saturated aqueous solution of sodium chloride, the solution was dried with anhydrous sodium sulfate. The desiccant was separated by filtration, and the filtrate was purified by silica gel column chromatography to obtain 0.90 g of 1-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline, which was an oily product (yield: 82%).

reactant | 1-methyl-7-nitro-3,4-dihydroisoquinoline | 1.08 g | CC1=NCCC2=CC=C(C=C12)[N+](=O)[O-] | C10H10N2O2
reactant | sodium borohydride | 0.43 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 1-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 0.90 g | CC1NCCC2=CC=C(C=C12)[N+](=O)[O-] | C10H12N2O2
